US04645727
1,5-Bis(p-hydroxyphenylthio)- 4,8-Bis(phenylthio)anthraquinone (III)
A mixture of 22 grams (0.2 mole) of benzenethiol, 25.6 grams (0.2 mole) of potassium carbonate in 100 milliliters of dimethyl formamide was heated with stirring to 120° C. for 2 hours. The cooled mixture was added to a cold mixture of 36.6 grams (0.1 mole) of 1,5-dichloro-4,8-dinitroanthraquinone in 150 milliliters of dimethyl formamide, and stirred for 3 hours at room temperature. After addition of 25.6 grams (0.2 mole) of p-hydroxybenzenethiol in 100 milliliters of dimethyl formamide, the mixture was stirred at 125° C. for 2 hours. The resulting reaction mixture was then cooled and poured slowly into 2 liters of water. The above solid product III was filtered, washed once each with water, acetic acid, methanol and then dried in vacuo. The yield of this red dye was 50 grams (75%), m.p.>340° C.; vis (DMF), λmax 540 nm (ε12,000); Anal. Calcd. for C 38 H24O4S4 : C, 67.83; H, 3.59; O, 9.51; S, 19.06. Found: C, 67.51; H, 3.89; O, 9.35; S, 19.32.

reactant | benzenethiol | 0.2 mole, 22 grams | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 0.2 mole, 25.6 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-dichloro-4,8-dinitroanthraquinone | 0.1 mole, 36.6 grams | ClC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)[N+](=O)[O-])Cl)=O)[N+](=O)[O-] | C14H4Cl2N2O6
reactant | p-hydroxybenzenethiol | 0.2 mole, 25.6 grams | OC1=CC=C(C=C1)S | C6H6OS
solvent | dimethyl formamide | 100 milliliters | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 150 milliliters | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 100 milliliters | CN(C=O)C | C3H7NO
solvent | water | 2 liters | O | H2O
product | 1,5-Bis(p-hydroxyphenylthio)- 4,8-Bis(phenylthio)anthraquinone | OC1=CC=C(C=C1)SC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)SC1=CC=CC=C1)SC1=CC=C(C=C1)O)=O)SC1=CC=CC=C1 | C38H24O4S4
